US04634710
A solution of 11.5 g of 2-chloromethyl-3-methyl-4-nitropyridine and 16 g of 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one in 200 ml of absolute acetone was treated with 13 g of finely ground potassium carbonate and the mixture was stirred at room temperature under argon for 18 hours. 100 ml of acetone were distilled off in vacuo, whereupon the residue was poured on to ice. The product which crystallized out was filtered off and dissolved in methylene chloride; the solution obtained was washed with water, dried and concentrated. By recrystallization from ethyl acetate/ether there was obtained 5,7-dihydro-5,5,7,7-tetramethyl-2-[[(3-methyl-4-nitro-2-pyridyl)methyl]thio]indeno[5,6-d]imidazol-6(1H)-one of melting point 181°-183° (decomposition).

reactant | 2-chloromethyl-3-methyl-4-nitropyridine | 11.5 g | ClCC1=NC=CC(=C1C)[N+](=O)[O-] | C7H7ClN2O2
reactant | 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 16 g | SC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C | C14H16N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5,7-dihydro-5,5,7,7-tetramethyl-2-[[(3-methyl-4-nitro-2-pyridyl)methyl]thio]indeno[5,6-d]imidazol-6(1H)-one | CC1(C(C(C2=CC=3NC(=NC3C=C12)SCC1=NC=CC(=C1C)[N+](=O)[O-])(C)C)=O)C | C21H22N4O3S
